US03962261
2,3-Dihydro-5-(1-pyrrolidinyl)-1-benzothiepin-4-carboxanilide 1,1-Dioxide
A mixture of 80 ml (contg 0.084 mol of COCl2) of a 12.5% solution of phosgene in benzene and 80 ml of tetrahydrofuran was cooled to -50° and a solution of 22.0 g (0.08 mol) of crude 2,3-dihydro-5-(1-pyrrolidinyl)-1-benzothiepin 1,1-dioxide and 8.8 g of triethylamine in 400 ml of tetrahydrofuran was added. The mixture was stirred at room temperature for 3 hours, cooled to -60°, and a solution of 8.0 g (0.088 mol) of aniline and 11 g of triethylamine in 200 ml of tetrahydrofuran was added. The mixture was stirred at room temperature for 18 hours, refluxed for 3 hours, and part of the tetrahydrofuran was removed by distillation under reduced pressure. The residue was treated with ice water and extracted with dichloromethane. The organic phase was washed with water, dried over sodium sulfate, and evaporated. The residue was redissolved in dichloromethane and ether was added until the solution became turbid. On standing there was collected 22.4 g of a solid precipitate. This was recrystallized from a mixture of 200 ml of tetrahydrofuran and 300 ml of isopropyl ether to give 15.6 g of product, mp 160°-163° dec. Recrystallization from a mixture of 200 ml of dichloromethane and 1600 ml of ether gave 10.4 g of material mp 167°-169° dec.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2,3-dihydro-5-(1-pyrrolidinyl)-1-benzothiepin 1,1-dioxide | 0.08 mol, 22.0 g | N1(CCCC1)C1=CCCS(C2=C1C=CC=C2)(=O)=O | C14H17NO2S
reactant | triethylamine | 8.8 g | C(C)N(CC)CC | C6H15N
reactant | aniline | 0.088 mol, 8.0 g | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 11 g | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2,3-Dihydro-5-(1-pyrrolidinyl)-1-benzothiepin-4-carboxanilide 1,1-Dioxide | 15.6 g | N1(CCCC1)C1=C(CCS(C2=C1C=CC=C2)(=O)=O)C(=O)NC2=CC=CC=C2 | C21H22N2O3S
